US07557103B2
A. 2-Iodo-1-methylbenzimidazole
In an oven dried nitrogen purged 3 neck 100 mL round bottom flask, 1.00 g (7.57 mmol) of 1-methylbenzimidazole in 20 mL of dry tetrahydrofuran is cooled to −78° C. 10.69 mL (18.17 mmol) of 1.7 M t-butyllithium in hexanes is added and the reaction mixture is stirred at −78° C. for 1 h. 2.55 g (11.36 mmol) of NIS in 20 mL of dry tetrahydrofuran is added. Reaction is removed from bath and stirred at room temperature for 1 hour, quenched with saturated aqueous solution of ammonium chloride, and diluted with dichloromethane. The layers are separated, the aqueous is extracted 3×100 mL dichloromethane, dried (MgSO4), and concentrated. The crude mixture is purified by chromatography using hexanes:ethyl acetate as a solvent system. The product containing fractions are combined to obtain 0.400 g of the title compound, 21% yield. MS, ES+=259.0 (M+1); 1H NMR (DMSO-d6) δ 7.580-7.552 (m, 2H); 7.228-7.129 (m, 2H); 3.750 (s, 3H) ppm.

reactant | 1-methylbenzimidazole | 7.57 mmol, 1.00 g | CN1C=NC2=C1C=CC=C2 | C8H8N2
reactant | t-butyllithium | 18.17 mmol, 1.7 M, 10.69 mL | C(C)(C)(C)[Li]
reactant | NIS | 11.36 mmol, 2.55 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-Iodo-1-methylbenzimidazole | 0.400 g, 21% yield | IC1=NC2=C(N1C)C=CC=C2 | C8H7IN2
